Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left distal humerus fracture
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation left distal humerus

 
History of Present Illness:
Admission HPI: ___ s/p fall one week prior onto her left 
elbow while in
___, with persistent left elbow pain since then, presented 
to
___ today and had XR showing L humerus lateral condyle 
fracture.
Splinted in posterior slab and placed in sling and transferred
here for further eval. She denies numbness, weakness, or
tingling. States that supination and pronation are painful, but
she can do them. No other pain aside from the left elbow. No
chest pain, abd pain, nausea, vomiting, diarrhea. 
 
Past Medical History:
hypothyroidism
HTN
DiGeorge syndrome c/b hypoparathyroidism and hypocalcemia
asthma
dm
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
General: pleasant overweight female sitting in bed with LUE in
posterior slab splint and sling

Vitals:
99.0 
___ 
18 
98% RA 

Right upper extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis 
- Soft, non-tender arm and forearm
- Full, painless AROM/PROM of shoulder, elbow, wrist, and digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse

Left upper extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis 
- Tender forearm proximally at the elbow, and tender arm 
distally
along the lateral humerus
- Painful flexion and extension of the wrist, full supination 
and
pronation of the wrist
- Limited flexion and extension at the elbow due to pain
- Full, painless AROM/PROM of shoulder
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse

Right lower extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis
- Soft, non-tender thigh and leg
- Full, painless AROM/PROM of hip, knee, and ankle
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

Left lower extremity:
- Skin intact
- No deformity, erythema, edema, induration or ecchymosis
- Soft, non-tender thigh and leg
- Full, painless AROM/PROM of hip, knee, and ankle
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

DISCHARGE PHYSICAL EXAM:
GEN: AOx3, NAD
CV: RRR
PULM: No respiratory distress
Left upper extremity:
- Skin intact, incision line without drainage or dehiscence, no 
deformity of arm
- Some pain and stiffness with PROM/AROM of shoulder and wrist 
due to pain at elbow.
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions
- 2+ radial pulse

 
Pertinent Results:
___ 07:45PM   ___ PTT-26.3 ___
___ 07:30PM   GLUCOSE-155* UREA N-12 CREAT-0.8 SODIUM-135 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-18* ANION GAP-22*
___ 07:30PM   WBC-6.9 RBC-5.05 HGB-12.3 HCT-40.6 MCV-80* 
MCH-24.4* MCHC-30.3* RDW-17.9* RDWSD-51.0*
___ 07:30PM   NEUTS-52.8 ___ MONOS-9.9 EOS-3.3 
BASOS-0.7 IM ___ AbsNeut-3.63 AbsLymp-2.20 AbsMono-0.68 
AbsEos-0.23 AbsBaso-0.05
___ 07:30PM   PLT COUNT-199
___ 06:00PM URINE  UCG-NEGATIVE
___ 06:00PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 06:00PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 06:00PM URINE  RBC-8* WBC-9* BACTERIA-NONE YEAST-NONE 
EPI-5 TRANS EPI-<1

___ Elbow XR:Images demonstrate fixation of a distal 
humeral fracture with multiple screws along the capitellum.  For 
details of the procedure, please consult procedure report.

CT Left Upper extremity ___:
FINDINGS: The study is technically limited as imaging was 
performed with the patient's arm across her abdomen, in addition 
imaging was performed in a cast. Both of these factors obscures 
fine bony detail. There is soft tissue fat stranding evident at 
the elbow and forearm, likely a contusion/hematoma. There is a 
fracture through the distal humerus involving the capitellum and 
lateral epicondyle. There is a large displaced fracture fragment 
anteriorly measuring approximately 2 cm. This appears to be 
intra-articular. No additional fractures seen. No joint effusion 
can be appreciated on the current study. Visualized portions of 
the intra-abdominal structures are unremarkable in appearance. 
IMPRESSION: Fracture through the lateral epicondyle with 
displacement of the capitellum anteriorly
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left distal humerus fracture and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for an open reduction and internal 
fixation of the left distal humerus, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to home with outpatient OT 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight bearing in the left upper extremity, and will be 
discharged on aspirin for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
Docusate Sodium 100 mg PO BID  
Levothyroxine Sodium 250 mcg PO DAILY  
linagliptin 5 mg oral DAILY  
Losartan Potassium 50 mg PO DAILY  
Metoprolol Succinate XL 25 mg PO DAILY  
 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY Duration: 14 Doses 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0 
4.  Levothyroxine Sodium 250 mcg PO DAILY  
5.  linagliptin 5 mg oral DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L distal humerus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Non-weight bearing to Left upper extremity, range of motion at 
wrist and shoulder as tolerated.

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take aspirin 325mg daily for 2 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- Please wear orthoplast splint in sling at all times. Do not 
get splint wet. You may put a plastic bag over your entire arm 
to keep it dry when showering.

Physical Therapy:
Non-weight bearing in LUE, range of motion as tolerated at wrist 
and shoulder and fingers
Treatments Frequency:
Splint Recommendations for Nursing:
***UE elevation at all times: hand above elbow, elbow above
shoulder
***Skin check after 1 hour of splint application; Splint checks
every shift thereafter unless increasing edema or at risk for
skin breakdown

Recommendations for Nursing: Encourage I with ADLS, OOB to chair
for all meals, elevation of UE

 
Followup Instructions:
___